US08563732B2
3-(Cyclopropanecarbonyl)benzonitrile was coupled with O-(1-(4-(trifluoromethoxy)phenylsulfonyl)piperidin-4-yl)hydroxylamine to give 3-(cyclopropyl(1-(4-(trifluoromethoxy)phenylsulfonyl)piperidin-4-yloxyimino)methyl)benzonitrile as a mixture of stereoisomers.

reactant | 3-(Cyclopropanecarbonyl)benzonitrile | C1(CC1)C(=O)C=1C=C(C#N)C=CC1 | C11H9NO
reactant | O-(1-(4-(trifluoromethoxy)phenylsulfonyl)piperidin-4-yl)hydroxylamine | FC(OC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)ON)(F)F | C12H15F3N2O4S
product | 3-(cyclopropyl(1-(4-(trifluoromethoxy)phenylsulfonyl)piperidin-4-yloxyimino)methyl)benzonitrile | C1(CC1)C(C=1C=C(C#N)C=CC1)=NOC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F | C23H22F3N3O4S
